US05891889
Step C: Preparation of Ethyl N-tert-butoxycarbonyl-4-(2-methylpyridin-4-ylmethyl)piperidine-4-carboxylate
A mixture of ethyl N-tert-butoxycarbonyl-4-(2-chloro-6-methylpyridin-4-ylmethyl)piperidine-4-carboxylate (0.32 g, 0.81 mmol) and 5% palladium on charcoal (60 mg) in methanol (10 mL) was stirred under a balloon of hydrogen gas at room temp. for 3 h. The resultant mixture was filtered through a plug of Celite. The filtrate was concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 3-5% methanol in chloroform gradient. Collection and concentration of appropriate fractions provided the title compound.

reactant | ethyl N-tert-butoxycarbonyl-4-(2-chloro-6-methylpyridin-4-ylmethyl)piperidine-4-carboxylate | 0.81 mmol, 0.32 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CC1=CC(=NC(=C1)C)Cl | C20H29ClN2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 60 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | Ethyl N-tert-butoxycarbonyl-4-(2-methylpyridin-4-ylmethyl)piperidine-4-carboxylate | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)OCC)CC1=CC(=NC=C1)C | C20H30N2O4
